US07091214B2
A solution of phosphorous oxychloride (3.1 g, 20 mmol) in anhydrous N,N-dimethylformamide (DMF, 14 mL) was added to a suspension of 3-nitro-7-phenylquinolin-4-ol (5.0 g, 18.8 mmol) in 80 mL of DMF over 3 min. The reaction was allowed to stir for 1.5 h and then poured into 250 mL crushed ice. The resulting precipitate was collected by filtration, washed with H2O, and dried under vacuum for 2 h. The crude 4-chloro-3-nitro-7-phenylquinoline thus obtained was used without further purification.

reactant | phosphorous oxychloride | 20 mmol, 3.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-nitro-7-phenylquinolin-4-ol | 18.8 mmol, 5.0 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1O)C1=CC=CC=C1 | C15H10N2O3
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
solvent | DMF | 80 mL | CN(C=O)C | C3H7NO
product | 4-chloro-3-nitro-7-phenylquinoline | ClC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-] | C15H9ClN2O2
